US05654307
A mixture of 5-amino-2-chloropyridine (12.86 g, 0.1 mol), di-tert-butyldicarbonate (24.0 g, 0.11 mol) and Eton (12.1 g, 1.12 mol) in CH2Cl2 (150 mL) is heated under reflux for 12 h, cooled, and the precipitate is filtered off. The organic layer is washed with water, dried (CaCl2) and filtered through a short column of alumina. Removal of the solvent gives 5-[N-(tert-butoxycarbonyl)amino]-2-chloropyridine (11.9 g, 52%). 1H NMR (CDCl2) δ 8.31 (1H, d, J=2.9 Hz), 7.94 (1H, dd, J=8.6, 2.6 Hz), 7.24 (1H, d, J=8.7 Hz), 7.15 (1H, m), 1.51 (9 H, s).

reactant | 5-amino-2-chloropyridine | 0.1 mol, 12.86 g | NC=1C=CC(=NC1)Cl | C5H5ClN2
reactant | di-tert-butyldicarbonate | 0.11 mol, 24.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 5-[N-(tert-butoxycarbonyl)amino]-2-chloropyridine | 11.9 g, 52% | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)Cl | C10H13ClN2O2
